simulator lang=spectre
global 0 vdd!


// should be included by the framework
// include "/opt/technology/tsmc40nm_18/tsmcN40/../models/spectre/toplevel.scs" section=top_tt
include "/opt/technology/tsmc40nm_18/tsmcN40/../models/spectre/toplevel.scs" section=top_globalmc_localmc

// ahdl_include "Control.va"
// include "rram_1t1r_nch_11_cell_custom_parasitics.scs"
include "reset_comparator_module.scs"

parameters
  + p_sim_time=0.2u
  + p_T0=300
  + p_temp=p_T0-273.15

  + p_gate_driver=0.8
  + p_i=1e-9

  + p_rram_tstep=1p
  + P_rram_T0=300
  + P_rram_Vread=0.1


  // + p_gap_ini=1.367e-9
  + p_gap_ini=0.1e-9

    // pulses
    + V_STOP_1=1.8
    + V_STOP_2=-1.8
    + v_reset_width=50n
    + v_set_width=100n
    + V_RISE=5n
    + p_gate=1.8

    + p_pI=8u

  ///////////////
  // VDD
  ///////////////
  V_VDD (vdd! 0) vsource dc=1.8 type=dc

  ///////////////
  // comparator
  ///////////////
  reset_comparator_module_0 ( vin1 vin2 comp_vout ) reset_comparator_module pI=p_pI
  // voltage
  Vref (vin1 0) vsource dc=-17.5m type=dc
  C0 (comp_vout 0) capacitor c=10f
  V2 (vin2 0) vsource dc=-17.5m type=sine freq=20M ampl=10m



  // Start of sensible_nodes_montecarlo (montecarlo) analysis
  //sensible_nodes_montecarlo montecarlo variations=all donominal=no savefamilyplots=yes firstrun=1 seed=1 numruns=50 {
  sensible_nodes_montecarlo montecarlo variations=process donominal=no savefamilyplots=yes firstrun=1 seed=1 numruns=1000 {
      my_tran tran stop=p_sim_time method=trap annotate=no maxiters=5
  }
  // End of sensible_nodes_montecarlo (montecarlo ) analysis


saveOptions options  save=allpub  saveahdlvars=all

simulatorOptions options genmcdep=yes reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=p_temp tnom=27 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3
save rram_block_in
save rram_sel
save reset_sel_driver

save BDriver_0:1
save txDriver_0:1

save rram_0.mem0:R_out
save rram_0.mem0:gap
save rram_0.txN0:1
save rram_0.aux_mem0_volt
